US07846960B2
2-(2,6-Dichloro-phenyl)-4-isobutyl-5-methyl-2H-pyrazole-3-carboxylic Acid Ethyl Ester
A mixture of 3-acetyl-2-methoxyimino-5-methyl-hexanoic acid ethyl ester (1 g, 4.1 mmol), 2,6-dichlorophenylhydrazine hydrochloride (1.76 g, 8.2 mmol) in glacial acetic acid (10 mL) and 2-methoxy-ethanol (5 mL) is stirred at 105° C. for 3 hours. The reaction is concentrated and the residue is partitioned between EtOAc and 1N HCl. The organic layer is concentrated and purified by column chromatography (0-20% EtOAc in hexanes) to give the title product as an oil, 1.1 g (76%).

reactant | 3-acetyl-2-methoxyimino-5-methyl-hexanoic acid ethyl ester | 4.1 mmol, 1 g | C(C)OC(C(C(CC(C)C)C(C)=O)=NOC)=O | C12H21NO4
reactant | 2,6-dichlorophenylhydrazine hydrochloride | 8.2 mmol, 1.76 g | Cl.ClC1=C(C(=CC=C1)Cl)NN
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | 2-methoxy-ethanol | 5 mL | COCCO | C3H8O2
product | 2-(2,6-Dichloro-phenyl)-4-isobutyl-5-methyl-2H-pyrazole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N(N=C(C1CC(C)C)C)C1=C(C=CC=C1Cl)Cl | C17H20Cl2N2O2
